US08039500B2
2-[2,6-Dichloro-4-(trifluoromethyl)benzyl]-1-methyl-1H-benzimidazol-7-amine
To a solution of [2,6-dichloro-4-(trifluoromethyl)phenyl]acetic acid (273 mg, 1.00 mmol) in toluene (2.0 mL) was added N,N′-carbonyldiimidazole (162 mg, 1.00 mmol) at room temperature. After the reaction mixture was stirred at 50° C. for 15 min, N2-methylbenzene-1,2,3-triamine (137 mg, 1.00 mmol) in toluene (2 mL) was added to the mixture, and the mixture was refluxed for further 60 hr. After the reaction mixture was cooled, the solvent was evaporated in vacuo, and the residue was purified by silica gel column chromatography eluting with 40-60% ethyl acetate/n-hexane gradient mixture to give the title compound (170 mg, 0.455 mmol, 45%) as a colorless solid. The resulting solid was recrystallized from n-hexane/ethyl acetate to give the title compound (137 mg, 0.38 mmol).

reactant | [2,6-dichloro-4-(trifluoromethyl)phenyl]acetic acid | 1.00 mmol, 273 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)CC(=O)O | C9H5Cl2F3O2
reactant | N2-methylbenzene-1,2,3-triamine | 1.00 mmol, 137 mg | CNC1=C(C=CC=C1N)N | C7H11N3
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2,6-Dichloro-4-(trifluoromethyl)benzyl]-1-methyl-1H-benzimidazol-7-amine | 0.455 mmol, 170 mg, 45% | ClC1=C(CC2=NC3=C(N2C)C(=CC=C3)N)C(=CC(=C1)C(F)(F)F)Cl | C16H12Cl2F3N3
